datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(CC)C([H])[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)[H])CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)[H])CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C([H])[NH]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(O)C([H])C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)C 21=20;20,10=10"
"[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCCCCCC)CC.[O-:21][H]>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21][H])CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C(O)C(O)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(O)C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O-:10]C(C)C(C)/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C(C)C(C)[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CCCCCC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][H])([S]CC)[S]C.[Cl-]>>[Cl-].[H][S:10][H].[H][O+:21]=[C:20]([S]CC)[S]C 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]CC 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[NH:10](C)C([H])C(C)/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][O:10][H].C[O+:21]=[C:20]([S]C)[O][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([S]C)[O][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C)([O][H])[NH][H].[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([O][H])[NH][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"CC1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C>>CC1C(O[C:20](=[O:10])N1C)C.[O-:21]CCCCCC 10=20;20,21=21"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C)[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
